US04999377
A solution of N-methy-N-propargyl 4-[2-(N-benzyl-N-(2-hydroxy-3phenoxypropyl)amino)ethyl]phenoxyacetamide (1.0 g) was dissolved in propan-2-ol (70 ml). 10% Palladium on carbon catalyst (0.2 g) was added and the mixture hydrogenated overnight under an atmosphere of hydrogen. The catalyst was separated by filtration through Keiselguhr and the filtrate evaporated under reduced pressure to give an oil. This residue was dissolved in dichloromethane (70 ml) and the pH (as indicated on moist test paper) was adjusted to 3 by adding a saturated solution of HCl in ether. The solvent was evaporated and this process was repeated as described in Example 26. The final residual oil (0.9 g) was suspended in a minimum amount of propan-2-ol from which it crystallised. A small amount of methyl acetate was added before the solid was filtered off and air-dried to give N-methyl-N-propargyl-4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]-phenoxyacetamide hydrochloride salt (0.3 g) mp 105°-107° C.. NMR: 0.73-0.92[m,3 H, hindered rotamers CH2CH3 ]; 1.35-1.67[m,2H, hindered rotamers, NCH2CH2CH3 ]; 2.80 and 2.96[pr.s,3H, hindered rotamers, N-CH3 ]; 2.84-3.02[m,2H,CHHD 2C6H4 ]; 3.02-3.30[m,4H,CH2NHCHHD 2]; 3.98[m,2H, OCH2CHOH]; 4.20[m,1H,CHOH]; 4.74[s,2H,OCH2CO]; 6.80-6.98[m,5H, aromatic H]; 7.10-7.34[m,4H, aromatic H].

reactant | N-methy-N-propargyl 4-[2-(N-benzyl-N-(2-hydroxy-3phenoxypropyl)amino)ethyl]phenoxyacetamide | 1.0 g | CN(C(COC1=CC=C(C=C1)CCN(CC(COC1=CC=CC=C1)O)CC1=CC=CC=C1)=O)CC#C | C30H34N2O4
reactant | HCl | Cl | ClH
solvent | propan-2-ol | 70 ml | CC(C)O | C3H8O
catalyst | Palladium on carbon | 0.2 g | [Pd] | Pd
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-methyl-N-propargyl-4-[2-(2-hydroxy-3-phenoxypropylamino)ethyl]-phenoxyacetamide hydrochloride salt | 0.3 g | Cl.CN(C(COC1=CC=C(C=C1)CCNCC(COC1=CC=CC=C1)O)=O)CC#C | InChI=1S/C23H28N2O4.ClH/c1-3-15-25(2)23(27)18-29-22-11-9-19(10-12-22)13-14-24-16-20(26)17-28-21-7-5-4-6-8-21;/h1,4-12,20,24,26H,13-18H2,2H3;1H
